US08426447B2
A vial was charged (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (282 mg, 0.809 mmol), p-tolylboronic acid (220 mg, 1.618 mmol), potassium carbonate (559 mg, 4.04 mmol), Pd(PPh3)4 (46.7 mg, 0.040 mmol). The vial was flushed with Ar (g), then Dioxane (4044 μL) and water (2 mL) were added in sequence. The vial was sealed and placed in an 80° C. oil bath. After stirring for 50 minutes, the mixture was partitioned between brine and 10% iPrOH/EtOAc. The layers were separated, and the aq. layer was extracted with EtOAc. The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was chromatographed on an 80-g Redi-Sep column, eluting with 0-80% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give (S)-2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (259.36 mg, 0.722 mmol, 89% yield) as an orange solid.

reactant | (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 0.809 mmol, 282 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)Br)O | C14H10BrN3O3
reactant | p-tolylboronic acid | 1.618 mmol, 220 mg | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | potassium carbonate | 4.04 mmol, 559 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.040 mmol, 46.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 0.722 mmol, 259.36 mg, 89% yield | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C1=CC=C(C=C1)C)O | C21H17N3O3
